US07750003B2
6-[(4-Fluorophenyl)sulfanylmethyl]-1H-pyrimidine-2,4-dione
DBU (4.02 mL, 26.91 mmol) was added to 4-fluorobenzenethiol (3.45 g, 26.91 mmol), in DMF (90 mL) at RT. The resulting solution was stirred at 20° C. for 15 minutes. 6-(Chloromethyl)-1H-pyrimidine-2,4-dione (2.88 g, 17.94 mmol) was then added and the reaction stirred for 4 hours. The reaction mixture was concentrated and diluted with DCM (100 mL), and washed with water (100 mL). The aqueous layer was acidified with 2M hydrochloric acid to give a white solid which was filtered and washed with water then dried under vacuum to give desired product (2.5 g).

reactant | DBU | 26.91 mmol, 4.02 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-fluorobenzenethiol | 26.91 mmol, 3.45 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | 6-(Chloromethyl)-1H-pyrimidine-2,4-dione | 17.94 mmol, 2.88 g | ClCC1=CC(NC(N1)=O)=O | C5H5ClN2O2
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 6-[(4-Fluorophenyl)sulfanylmethyl]-1H-pyrimidine-2,4-dione | 2.5 g | FC1=CC=C(C=C1)SCC1=CC(NC(N1)=O)=O | C11H9FN2O2S
